US07384930B2
4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)-N-((R)-8-oxo-9-(pyrrolidin-3-yl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)piperidine-1-carboxamide.
(R)-tert-butyl 4-(8-oxo-7-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-7,8-dihydroazepino[3,4-e]indazol-9(3H,6H,10H)-yl)piperidine-1-carboxylate (45 mg, 0.06 mmol) was dissolved in dichloromethane (1 mL). Trifluoroacetic acid (0.25 mL) was added to the mixture. Reaction stirred at room temperature for 1.5 hour. Reaction mixture was concentrated in vacuo. C18 preparatory HPLC purification afforded the title compound as yellow solid in 52% yield. High resolution MS m/e (M+H)+=543.2830.

reactant | (R)-tert-butyl 4-(8-oxo-7-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-7,8-dihydroazepino[3,4-e]indazol-9(3H,6H,10H)-yl)piperidine-1-carboxylate | 0.06 mmol, 45 mg | O=C1[C@@H](CC2=C(C=3C=NNC3C=C2)CN1C1CCN(CC1)C(=O)OC(C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C35H44N8O5
reactant | Trifluoroacetic acid | 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)-N-((R)-8-oxo-9-(pyrrolidin-3-yl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)piperidine-1-carboxamide | 52% yield | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)N[C@@H]1CC2=C(C=3C=NNC3C=C2)CN(C1=O)C1CNCC1 | C29H34N8O3
